### PR TITLE
Holomorphy

### PR DESCRIPTION
**Pull request by mkerjean**
Formalization of complex analysis, following the closed #192.

### CODE REVIEW

**Comment by CohenCyril** [comment]
@mkerjean @mkerjean CI fixed (cf https://github.com/math-comp/math-comp-nix/blob/master/default.nix#L40)

**Comment by mkerjean** [comment]
FYI, for the proof of (Differentiable /\ Cauchy-Riemann => Holomorphic), I tried to reintroduce two normed structure on `R[i]`, in order to use the theory of differentiability already developed. However, it is still difficult to handle, as basic computations do not  perform easily (https://github.com/math-comp/analysis/blob/e2bab6f145d62cde3c15472175983733989e6e14/theories/holomorphy.v#L547). Would that be something which could be solved by [this](https://github.com/math-comp/real-closed/blob/complex_both_modules/theories/complex.v) branch of real-closed  @CohenCyril  ?

File: theories/holomorphy.v [hunk 1]
```diff
@@ -145,118 +146,22 @@ Proof. by apply/idP/idP => [/eqP[] ->//|/eqP ->]. Qed.
...
-(*LmodType is hard to use, not findable through Search
- and not checkable as abbreviation is not applied enough*)
-
-
-(* Local Notation C := R[i]. *)
+Lemma complexV (*name ?*) (h: R) : h != 0 -> (h^-1)%:C = h%:C^-1.
+Proof.
+rewrite eqE_complex //=; split; last by rewrite mul0r oppr0.
+by rewrite expr0n //= addr0 -exprVn expr2 mulrA mulrV ?unitfE ?mul1r //=.
+Qed.
```
Comment (CohenCyril) [inline theories/holomorphy.v:158]: `apply: fmorphV` did not work?

**Comment by mkerjean** [comment]
Subsumed by PR 1629 and 2001
